US07291631B2
Using General Procedure B, reaction of 1-methyl-1H-imidazole-2-carbaldehyde and (4-amino-butyl)-carbamic acid tert-butyl ester in CH2Cl2 and NaBH(OAc)3 gave {4-[(1-methyl-1H-imidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as a sticky white foam.

reactant | 1-methyl-1H-imidazole-2-carbaldehyde | CN1C(=NC=C1)C=O | C5H6N2O
reactant | (4-amino-butyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | {4-[(1-methyl-1H-imidazol-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC=1N(C=CN1)C)=O | C14H26N4O2
